US05449686
1c. 2-Carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one
To a solution of dimethyl 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)pimelate (5.9 g, 14.6 mmol) in dry 1,2-dimethoxyethane (120 mL) under an argon atmosphere was added sodium hydride (80% suspension in mineral oil, 1.05 g, 43.8 mmol). The mixture was heated to reflux for 4.5 h, then was cooled to room temperature and was stirred for 16 h. Water was added and the reaction mixture was partitioned between ether and acidic water. The organic extract was dried (magnesium sulfate) and the solvent was removed in vacuo. The residue was purified by flash chromatography, eluting with 3:1 hexanes/ethyl acetate, to provide a white foam (4.9 g, 93%).

reactant | dimethyl 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)pimelate | 14.6 mmol, 5.9 g | C(#N)C(CCC(=O)OC)(CCC(=O)OC)C1=CC(=C(C=C1)OC)OC1CCCC1 | C22H29NO6
reactant | sodium hydride | 43.8 mmol, 1.05 g | [H-].[Na+]
reactant | Water | O | H2O
solvent | 1,2-dimethoxyethane | 120 mL | COCCOC | C4H10O2
product | 2-Carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one | 4.9 g, 93% | C(=O)(OC)C1C(CCC(C1)(C1=CC(=C(C=C1)OC)OC1CCCC1)C#N)=O | C21H25NO5
